US05932606
Step B: Boc-D-3,3-diphenylalanine-L-proline
A solution of Boc-D-3,3-diphenylalanine-L-proline benzyl ester (8.0 g, 15.0 mmol) in ethanol (200 ml) was hydrogenated in the presence of 10% Pd/C (2.0 g) a t atmospheric pressure for 24 h. The reaction mixture was then filtered through Celite and the filtrate concentrated in vacuo to give the title compound as a white solid: 1H NMR (CDCl3) d 1.20-1.40 (m, 1 H), 1.35 (s, 9 H), 1.40-1.60 (m, 1 H), 1.70-1.90 (m, 1 H), 2.21-2.30 (m, 1 H), 2.70 (q, J=9 Hz, 1 H), 3.75 (br t, J=9 Hz, 1 H), 4.16 (d, J=9 Hz, 1 H), 4.35 (d, J=11.5 Hz, 1 H), 4.97-5.18 (m, 2 H), 7.22-7.39 (m, 10 H).

reactant | Boc-D-3,3-diphenylalanine L-proline benzyl ester | 15.0 mmol, 8.0 g | CC(C)(C)OC(=O)N[C@H](C(C1=CC=CC=C1)C2=CC=CC=C2)C(=O)O.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | Boc-D-3,3-diphenylalanine L-proline | CC(C)(C)OC(=O)N[C@H](C(C1=CC=CC=C1)C2=CC=CC=C2)C(=O)O.N1[C@H](C(=O)O)CCC1 | InChI=1S/C20H23NO4.C5H9NO2/c1-20(2,3)25-19(24)21-17(18(22)23)16(14-10-6-4-7-11-14)15-12-8-5-9-13-15;7-5(8)4-2-1-3-6-4/h4-13,16-17H,1-3H3,(H,21,24)(H,22,23);4,6H,1-3H2,(H,7,8)/t17-;4-/m10/s1
